US07160888B2
Synthesis of 7-{4-[4-(3-Acetyl-2-chloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
In a manner similar to that of other examples above, 1-(2-chloro-3-piperazin-1-yl-phenyl)-ethanone trifluoroacetate was coupled by reductive amination to 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde followed by typical workup and purification to give the title compound, mp 138–139° C. MS: APCI: M+1: 457.2 (Exact Mass: 456.19).

reactant | 1-(2-chloro-3-piperazin-1-yl-phenyl)-ethanone trifluoroacetate | FC(C(=O)O)(F)F.ClC1=C(C=CC=C1N1CCNCC1)C(C)=O
reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
product | 7-{4-[4-(3-Acetyl-2-chloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | C(C)(=O)C=1C(=C(C=CC1)N1CCN(CC1)CCCCOC1=CC=C2CCC(NC2=N1)=O)Cl | C24H29ClN4O3
